US09024027B2
Step 3: Preparation of 3,5-dichloro-4-((2S)-2-(4-(difluoromethoxy)-3-(tetrahydrofuran-3-yloxy)phenyl)-2-(2-(1,3-dioxoisoindolin-2-yl)acetoxy)-ethyl)pyridine 1-oxide (261)
To a solution of (S)-3,5-dichloro-4-(2-(4-(difluoromethoxy)-3-hydroxyphenyl)-2-(2-(1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide (155 mg, 0.280 mmol) in DMF (3.8 ml), potassium carbonate (46.5 mg, 0.336 mmol) was added, and the mixture stirred at RT for 30 minutes. Tetrahydrofuran-3-yl 4-methylbenzenesulfonate (224 mg, 0.924 mmol) was added, and the mixture stirred at RT overnight. Water was added, and the aqueous phase extracted with AcOEt (2×). The organic phase was washed with brine, dried and evaporated under reduced pressure. The crude was purified through preparative HPLC (Method 2) to give 17 mg of title compound (yield 10%). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.45 (s, 2H), 7.92 (d, J=4.41 Hz, 4H), 7.18-7.27 (m, 1H), 7.05 (m, 2H), 6.98 (d, J=7.94 Hz, 1H), 6.02 (dd, J=8.38, 4.85 Hz, 1H), 5.12 (m, 1H), 4.30-4.58 (m, 2H), 3.62-4.06 (m, 4H), 3.14-3.43 (m, 2H), 2.20 (ddd, J=13.56, 6.73, 6.62 Hz, 1H), 1.86-2.05 (m, 1H). MS/ESI+ [M+H]+=622.7

reactant | (S)-3,5-dichloro-4-(2-(4-(difluoromethoxy)-3-hydroxyphenyl)-2-(2-(1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide | 0.280 mmol, 155 mg | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=CC=C2C1=O)=O)=O)C1=CC(=C(C=C1)OC(F)F)O)Cl)[O-] | C24H16Cl2F2N2O7
reactant | potassium carbonate | 0.336 mmol, 46.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Tetrahydrofuran-3-yl 4-methylbenzenesulfonate | 0.924 mmol, 224 mg | CC1=CC=C(C=C1)S(=O)(=O)OC1COCC1 | C11H14O4S
reactant | Water | O | H2O
solvent | DMF | 3.8 ml | CN(C)C=O | C3H7NO
product | 3,5-dichloro-4-((2S)-2-(4-(difluoromethoxy)-3-(tetrahydrofuran-3-yloxy)phenyl)-2-(2-(1,3-dioxoisoindolin-2-yl)acetoxy)-ethyl)pyridine 1-oxide | 17 mg, yield 10% | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=CC=C2C1=O)=O)=O)C1=CC(=C(C=C1)OC(F)F)OC1COCC1)Cl)[O-] | C28H22Cl2F2N2O8
